US07429609B2
3-(3-Fluorophenyl)-1H-pyrazolo[4,3-b]pyridin-5-ylamine
3-(3-Fluorophenyl)-1-trityl-1H-pyrazolo[4,3-b]pyridin-5-ylamine was treated with trifluoroacetic acid in the similar method as described in Example 16 and so on, followed by purification by LC-MS, to give the title compound.

reactant | 3-(3-Fluorophenyl)-1-trityl-1H-pyrazolo[4,3-b]pyridin-5-ylamine | FC=1C=C(C=CC1)C1=NN(C=2C1=NC(=CC2)N)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C31H23FN4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(3-Fluorophenyl)-1H-pyrazolo[4,3-b]pyridin-5-ylamine | FC=1C=C(C=CC1)C1=NNC=2C1=NC(=CC2)N | C12H9FN4
